US04588746
A solution of 30.0 g of methyl α-benzylacrylate, prepared by the method of R. B. Miller and B. F. Smith, Synth. Commun. 3, 359 (1973) in methanol (50 ml) is added to a solution of dimethylamine (71.0 g) in methanol (210 ml), and the mixture is stirred at room temperature for 48 hours. The solvent is removed under reduced pressure to give methyl 2-benzyl-3-dimethylaminopropionate as a yellow oil, used without purification in the next synthetic step; NMR: δ7.14 (s, 5H), 3.52 (s, 3H), 2.82 (m, 3H), 2.17 (s, 6H), 2.63-2.17 (m, remaining H).

reactant | methyl α-benzylacrylate | 30.0 g | C(C1=CC=CC=C1)C(C(=O)OC)=C | C11H12O2
reactant | dimethylamine | 71.0 g | CNC | C2H7N
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 210 ml | CO | CH4O
product | methyl 2-benzyl-3-dimethylaminopropionate | C(C1=CC=CC=C1)C(C(=O)OC)CN(C)C | C13H19NO2
